US03974187
2,3-Dimethoxy-5-methyl-6-pentyl-1,4-benzoquinone
To a solution of 2,3-dimethoxy-5-methyl-1,4-benzoquinone (1.82 g; 10 mmol,) in 50 ml of glacial acetic acid at 90°-95°C under nitrogen was added portionwise over a 3-hour period a solution of dihexanoyl peroxide (6.9 g; 30 mmol) in 10 ml of glacial acetic acid. The resulting solution was maintained at 90°-95°C for 12 hours and cooled to room temperature. The solvent was removed in vacuo, and the residual oil was subjected to silica gel column chromatography eluted stepwise with solvent systems of increasing polarity from pure hexane to hexane-chloroform (6:4). Unreacted starting quinone (700 mg) was recovered as orange crystals. The orange band which travelled faster than the unreacted quinone, was collected and further purified by preparative thin layer chromatography developed with a mixture of hexane, chlorofrom and ether (10:10:1) to give a total of 510 mg of the pure desired product. Yield 33%. Anal. (C14H20O4), C,H.

reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 10 mmol, 1.82 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
reactant | dihexanoyl peroxide | 30 mmol, 6.9 g | C(CCCCC)(=O)OOC(CCCCC)=O | C12H22O4
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethoxy-5-methyl-6-pentyl-1,4-benzoquinone | 510 mg, Yield 33% | COC=1C(C(=C(C(C1OC)=O)C)CCCCC)=O | C14H20O4
